### ISSUE TITLE
`linter.unusedVariables` false positive when used in `decreasing_by`

### ISSUE THREAD

**Issue by Seasawher** [leanprover/lean4#2920]
### Prerequisites

* [x] Put an X between the brackets on this line if you have done all of the following:
    * Check that your issue is not already [filed](https://github.com/leanprover/lean4/issues).
    * Reduce the issue to a minimal, self-contained, reproducible test case. Avoid dependencies to mathlib4 or std4.

### Description

In some cases, the `linter.unusedVariables` yields false positives.

### Context

https://leanprover.zulipchat.com/#narrow/stream/113489-new-members/topic/False.20Positive.20Warning.3A.20.60linter.2EunusedVariables.60

### Steps to Reproduce

```lean
variable (α : Type)

def sample (n : Nat) : Nat :=
  match h : n with
  | 0 => 0
  | m + 1 => m + sample (m / 2)
  decreasing_by
    simp [h]
    simp_wf
    exact Nat.lt_of_le_of_lt (Nat.div_le_self _ _) (Nat.lt_succ_self _)
```

**Expected behavior:**  No warning occurs.

**Actual behavior:** The message "unused variable h [linter.unusedVariables]" is shown.

### Versions

Lean "4.3.0-rc2"
OS: lean playground's OS version

**Comment by nomeata** [comment]
Thanks for the report!

NB: `simp` doesn't seem to actually need the `h`, maybe that’s part of it?

```
variable (α : Type)

def sample (n : Nat) : Nat :=
  match _h : n with
  | 0 => 0
  | m + 1 => m + sample (m / 2)
  decreasing_by
    simp
    simp_wf
    exact Nat.lt_of_le_of_lt (Nat.div_le_self _ _) (Nat.lt_succ_self _)
```
works, as does
```
variable (α : Type)

def sample (n : Nat) : Nat :=
  match : n with
  | 0 => 0
  | m + 1 => m + sample (m / 2)
  decreasing_by
    simp
    simp_wf
    exact Nat.lt_of_le_of_lt (Nat.div_le_self _ _) (Nat.lt_succ_self _)
```

**Comment by m4lvin** [comment]
I just ran into another example of this, and removing the variable here does break it.

[Click for playground](https://live.lean-lang.org/#code=import%20Mathlib.Data.Finset.Basic%0A%0Adef%20fTransReflSingle%20%7B%CE%B1%20%3A%20Type%7D%0A%20%20%20%20(f%20%3A%20%CE%B1%20%E2%86%92%20Finset%20%CE%B1)%0A%20%20%20%20(h%20%3A%20DecidableEq%20%CE%B1)%0A%20%20%20%20(m%20%3A%20%CE%B1%20%E2%86%92%20%E2%84%95)%0A%20%20%20%20(isDec%20%3A%20%E2%88%80%20(x%20%3A%20%CE%B1)%2C%20%E2%88%80%20y%20%E2%88%88%20(f%20x)%2C%20m%20y%20%3C%20m%20x)%20%3A%0A%20%20%20%20%CE%B1%20%E2%86%92%20Finset%20%CE%B1%0A%20%20%7C%20x%20%3D%3E%20%7Bx%7D%20%E2%88%AA%20(f%20x).attach.biUnion%20(fun%20%E2%9F%A8y%2C%20y_in%E2%9F%A9%20%3D%3E%20fTransReflSingle%20f%20h%20m%20isDec%20y)%20--%20unused%20variable%20%60y_in%60%20...%0Atermination_by%0A%20%20fTransReflSingle%20f%20h%20m%20isDec%20S%20%3D%3E%20m%20S%0Adecreasing_by%20simp_wf%3B%20apply%20isDec%20x%20_%20y_in%20---%20...%20but%20it%20is%20used%20here!%0A)
```lean
import Mathlib.Data.Finset.Basic

def fTransReflSingle {α : Type}
    (f : α → Finset α)
    (h : DecidableEq α)
    (m : α → ℕ)
    (isDec : ∀ (x : α), ∀ y ∈ (f x), m y < m x) :
    α → Finset α
  | x => {x} ∪ (f x).attach.biUnion (fun ⟨y, y_in⟩ => fTransReflSingle f h m isDec y) -- unused variable `y_in` ...
termination_by
  fTransReflSingle f h m isDec S => m S
decreasing_by simp_wf; apply isDec x _ y_in --- ... but it is used here!
```

**Comment by danielschemmel** [comment]
I ran into another example of this issue on stable (version 4.4.0, commit ca7d6dadb9e1, Release), which only uses `exact` (and `sorry` to "prove" the theorem it uses):

```
theorem halving_goes_to_zero (n: Nat): ¬(n = 0) -> n / 2 < n := by sorry

def pow (a : Nat) (b : Nat): Nat :=
  if b_is_not_zero: b = 0 then  -- "unused variable `b_is_not_zero` [linter.unusedVariables]"
    1
  else
    let a' := pow a (b / 2)
    if b % 2 == 0 then
      a' * a'
    else
      a' * a' * a
termination_by _ => b
decreasing_by exact (halving_goes_to_zero b) b_is_not_zero
```

As expected, removing the variable [breaks compilation](https://live.lean-lang.org/#code=theorem%20halving_goes_to_zero%20(n%3A%20Nat)%3A%20%C2%AC(n%20%3D%200)%20-%3E%20n%20%2F%202%20%3C%20n%20%3A%3D%20by%20sorry%0A%0Adef%20pow%20(a%20%3A%20Nat)%20(b%20%3A%20Nat)%3A%20Nat%20%3A%3D%0A%20%20if%20b%20%3D%200%20then%0A%20%20%20%201%0A%20%20else%0A%20%20%20%20let%20a'%20%3A%3D%20pow%20a%20(b%20%2F%202)%0A%20%20%20%20if%20b%20%25%202%20%3D%3D%200%20then%0A%20%20%20%20%20%20a'%20*%20a'%0A%20%20%20%20else%0A%20%20%20%20%20%20a'%20*%20a'%20*%20a%0Atermination_by%20_%20%3D%3E%20b%0Adecreasing_by%20exact%20(halving_goes_to_zero%20b)%20b_is_not_zero)

**Comment by Kha** [comment]
@nomeata I can't reproduce any of these on master anymore, apparently some `decreasing_by` changes fixed them?

**Comment by m4lvin** [comment]
Hm, but slightly adjusting the example from @danielschemmel still gives the warning [here with Lean nightly](https://live.lean-lang.org/#project=lean-nightly&codez=C4Cwpg9gTmC2AEICGAbAbgSwHYHMD6OEYAznsBHgF5hQTwAUWAXPAHJLACULANY/AF54ABk7wAtAD54WeAHp4AJngAeGfCZCARgE94xaFB0AoYwBMwAM3gAHCAHcGSDWw5j6Wl+y4tvGgcbw8BjWWngYpFgQwFQ0dCyeQsLwoGCyEuLwAK5YWcRgZvBoSFAYSFooYPAABmEReFEx1LTVgUHwAIxtYCj5bUGVwPBIAOT+tg7DDJ4Kipz9waHwAKRKgkkp4FgLQaPwAFTDIws9fe3te4eXw+ZgAMYwSMTY+LrwYAAeSHdD9MjoLwIRFI5FitHgWjEdUi0TBEGMQA)

```
theorem halving_goes_to_zero (n: Nat): ¬(n = 0) -> n / 2 < n := by sorry

def pow (a : Nat) (b : Nat): Nat :=
  if b_is_not_zero : b = 0 then  -- unused variable `b_is_not_zero`
    1
  else
    let a' := pow a (b / 2)
    if b % 2 == 0 then
      a' * a'
    else
      a' * a' * a
decreasing_by exact (halving_goes_to_zero b) b_is_not_zero
```

Is nightly different / much behind master?

**Comment by Kha** [comment]
My fault, I can see it now

**Comment by b-mehta** [comment]
I just ran into something I think is similar too:
```
variable {α : Type}

inductive Tree (α : Type)
| var : α → Tree α
| mul : Tree α → Tree α → Tree α

namespace Tree

inductive bar : Tree α → Prop
| right {x y : Tree α} : bar y → bar (mul x y)
| midCancel {x y z : Tree α} : bar (mul (mul x y) (mul y z))

theorem unusedVariable (x y : Tree α) (h : ¬ bar (mul x y)) :
    bar (mul (mul x y) (mul x y)) → x = y
  | .midCancel => rfl

end Tree
```
Apologies if this is a different bug, I'm happy to make it a separate report if so.

**Comment by nomeata** [comment]
This seems to be not about `decreasing_by` but the pattern match completenes checker, so probably worth its own report.

**Comment by Kas1o** [comment]
```lean4
def gcd (m n : Nat) : Nat :=
  if h : m = 0 then -- unused variable `h`
    n
  else
    gcd (n % m) m
  termination_by m
  decreasing_by
    change Nat.mod n m < m
    apply Nat.mod_lt
    exact Nat.zero_lt_of_ne_zero h -- `h` used here
```

https://live.lean-lang.org/#project=lean-nightly&codez=CYUwZgBA5gxsEAoC2EB2EBcEByBDALgJSY4GYC8AUBBAJaQAWJK5EADBPgyKtTWnxAAbAM4g%2BNWPAToApBCTEkffCABOSWqgK0A9qgD6AIwCeCvqBhqQuEVqjGTEiDAa5UUEKXwA6JLvh0FAAec34IXAAHSKEzPF9%2FYAMhfGcQAA9cGHxvHwAvdV1k%2FANdMANUEAMCtV0IBiA

Lean 4.29.0
Target: x86_64-w64-windows-gnu Windows

**Comment by frangio** [comment]
Probably related: renaming a variable in the function body (via LSP code action) doesn't rename occurrences in `decreasing_by`. The variables from the function body and those of `decreasing_by` are not related.

I've also found the unused warning may or may not trigger depending on the context of the recursive call. For example, this does not show a warning for unused `h`:

```lean
def foo (xs : Array Unit) : Nat :=
  match h : xs.toList with
  | [] => 0
  | _ :: xs' => foo xs'.toArray + 1
termination_by xs.toList.length
decreasing_by simp [h]
```

but it does as soon as you remove `+ 1` from the recursive call. Renaming doesn't work in either case.

**Comment by nomeata** [comment]
Interesting observation, but the last bit is likely unrelated to `decreasing_by`, we get it also with
```
axiom mySorryAx : P

def foo (xs : Array Unit) : Nat :=
  match h : xs.toList with
  | [] => 0
  | _ :: xs' => foo xs'.toArray + 1
termination_by xs.toList.length
decreasing_by exact mySorryAx
```
